US04443609
To a sample of 250 grams of 28% ammonium hydroxide was added 215 grams of 2-ethylbutyraldehyde and the heterogeneous mixture was stirred for 18 hours at ambient temperature. The resulting organic layer was separated, and after drying, slowly distilled at atmospheric pressure to yield 148.8 grams of 3,7-diethyl-5-azanona-3,5-diene.

reactant | ammonium hydroxide | 250 grams | [OH-].[NH4+]
reactant | 2-ethylbutyraldehyde | 215 grams | C(C)C(C=O)CC | C6H12O
product | 3,7-diethyl-5-azanona-3,5-diene | 148.8 grams | C(C)C(CC)=CN=CC(CC)CC | C12H23N
